US08486963B2
Step 1: 4-{[7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carbonyl]-aminooxy}-piperidine-1-carboxylic acid tert-butyl ester
7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (190 mg, 0.48 mmol), 4-aminooxy-piperidine-1-carboxylic acid tert-butyl ester (154 mg, 0.72 mmol), HOBt (106 mg, 0.79 mmol), EDCI hydrochloride (150 mg, 0.79 mmol) and DIPEA (120 μL, 0.72 mmol) were suspended in DMF (5 mL). The reaction was stirred at RT for 1 hour, during which time the reagents dissolved. The reaction mixture was concentrated in vacuo, the resultant residue dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethylacetate in cyclohexane) to yield the title compound as a brown solid (180 mg, 65%). LCMS (Method B): RT=3.69 min, M+H+−tBu=540 (100%), M+H+−Boc=496 (95%).

reactant | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | 0.48 mmol, 190 mg | FC1=C(C=CC(=C1)I)NC1=C(C=C2N1C=NC=C2)C(=O)O | C14H9FIN3O2
reactant | 4-aminooxy-piperidine-1-carboxylic acid tert-butyl ester | 0.72 mmol, 154 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)ON | C10H20N2O3
reactant | HOBt | 0.79 mmol, 106 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 0.79 mmol, 150 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.72 mmol, 120 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-{[7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carbonyl]-aminooxy}-piperidine-1-carboxylic acid tert-butyl ester | 180 mg, 65% | C(C)(C)(C)OC(=O)N1CCC(CC1)ONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C24H27FIN5O4
